US07745642B2
Description 39: (±)-1-(2-Methyl-1-pyrrolidinyl)cyclopentanecarbonitrile
A mixture of cyclopentanone (1.34 g, 16 mmol) and 2-methylpyrrolidine (1.36 g; 16 mmol) was cooled to 0° C. (ice bath). A solution of potassium cyanide (1.04 g, 16 mmol) in water (10 ml) was added dropwise over 10 min and the whole mixture stirred vigorously for 18 h at 20° C., and then partitioned between ethyl acetate and water. The organic layer was dried (Na2SO4) and evaporated in vacuo to afford the title compound (2.24 g; 79%). 1NMR (CDCl3) δ: 1.1 (3H, d), 1.45 (1H, m), 1.75-2.05 (9H, m), 2.13 (2H, m), 2.65 (1H, m), 3.1 (2H, m).

reactant | cyclopentanone | 16 mmol, 1.34 g | C1(CCCC1)=O | C5H8O
reactant | 2-methylpyrrolidine | 16 mmol, 1.36 g | CC1NCCC1 | C5H11N
reactant | potassium cyanide | 16 mmol, 1.04 g | [C-]#N.[K+]
solvent | water | 10 ml | O | H2O
product | (±)-1-(2-Methyl-1-pyrrolidinyl)cyclopentanecarbonitrile | 2.24 g, 79% | CC1N(CCC1)C1(CCCC1)C#N | C11H18N2
